US06455528B1
Synthesis of N-(4-(1-(4-(Thiazol-2-yl)piperazin-1-yl)ethyl)phenylmethyl)acetamide 1/2 Ethanol 1/2 Hydrate
By similar reaction and treatment to that in Example 1(5) using 1-(2-thiazolyl)piperazine instead of phenylpiperazine and N-(4-(1-chloroethyl)phenylmethyl)acetamide instead of N-(4-chloromethylphenylmethyl) acetamide, the title compound was obtained as a brown oil.

reactant | 1-(2-thiazolyl)piperazine | S1C(=NC=C1)N1CCNCC1 | C7H11N3S
reactant | N-(4-(1-chloroethyl)phenylmethyl)acetamide | ClC(C)C1=CC=C(C=C1)CNC(C)=O | C11H14ClNO
product | N-(4-(1-(4-(Thiazol-2-yl)piperazin-1-yl)ethyl)phenylmethyl)acetamide | S1C(=NC=C1)N1CCN(CC1)C(C)C1=CC=C(C=C1)CNC(C)=O | C18H24N4OS
